US07737167B2
N-(Benzimidazol-2-yl)benzhydrylamine
The title compound was prepared from 2-chlorobenzimidazole and benzhydrylamine by Procedure A. The product was isolated by preparative LCMS to give the title compound as the free base (white solid, mp 255-258° C.). MS(ES+) m/z 300 ([M+1]+, 100). 1NMR (DMSO-d6) δ 6.20 (d, 1H), 6.75-7.65 (m, 15H), 10.5 (s, 1H).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | benzhydrylamine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
product | N-(Benzimidazol-2-yl)benzhydrylamine | N1=C(NC2=C1C=CC=C2)NC(C2=CC=CC=C2)C2=CC=CC=C2 | C20H17N3
